US04405737
Preparation of bis(2-hydroxy-3-(2,2,6,6-tetramethyl-4-hydroxypiperidine-1-yl)propyl)ether (No. 25)
2,2,6,6-Tetramethyl-4-hydroxypiperidine 15.7 g and bis(2,3-epoxypropyl)ether was dissolved in 30 ml ethanol and refluxed for ten hours. Ethanol was distilled off, and 21.8 g of colorless liquid was obtained.

reactant | 2,2,6,6-Tetramethyl-4-hydroxypiperidine | 15.7 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | bis(2,3-epoxypropyl)ether | O1C(COCC2CO2)C1 | C6H10O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | bis(2-hydroxy-3-(2,2,6,6-tetramethyl-4-hydroxypiperidine-1-yl)propyl)ether | 21.8 g | OC(COCC(CN1C(CC(CC1(C)C)O)(C)C)O)CN1C(CC(CC1(C)C)O)(C)C | C24H48N2O5
